US06248740B1
Production of 2-[6-[3-[4-(diphenylmethyl)piperazino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid
1.08 g of ethyl 2-[6-[3-[4-(diphenylmethyl)piperazino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride was dissolved in 8 ml of ethanol; 8.5 ml of a 1 N aqueous solution of sodium hydroxide was added, followed by thermal refluxing for 2 hours. After cooling, the mixture was concentrated under reduced pressure; the residue was diluted with water and ajusted to pH 4.5 by the addition of 1 N hydrochloric acid. The mixture was crystallized by the addition of acetone, washed with water-acetone (2:1) and dried to yield 435 mg of the title compound.

reactant | ethyl 2-[6-[3-[4-(diphenylmethyl)piperazino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate trihydrochloride | 1.08 g | Cl.Cl.Cl.C1(=CC=CC=C1)C(N1CCN(CC1)CCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=CC=C2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 8 ml | C(C)O | C2H6O
product | 2-[6-[3-[4-(diphenylmethyl)piperazino]propyl]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionic acid | 435 mg | C1(=CC=CC=C1)C(N1CCN(CC1)CCCC=1C=CC=2N(N1)C=C(N2)C(C(=O)O)(C)C)C2=CC=CC=C2 | C30H35N5O2
